US04702763
Step 1: 3-Tetrahydrothienyl 4-methylphenylsulfonate
To a chilled solution of 1.12 g (0.0098 mole) of tetrahydrothiophene-3-ol in 15 mL of pyridine was added 1.91 g (0.01 mole) of 4-methylphenylsulfonyl chloride, and the reaction mixture was stirred in the cold, about 16° C., for 1 hour then placed in a cold refrigerator for 16 hours. The reaction mixture was allowed to warm to room temperature and was stirred for 1 hour. An additional 0.3 g (0.0016 mole) of 4-methylphenylsulfonyl chloride was added, and the reaction mixture was stirred at room temperature for 64 hours. The reaction mixture was poured into water, and the whole was extracted with methylene chloride. The methylene chloride solution was dried and concentrated to give 1.28 g of product as an oil.

reactant | tetrahydrothiophene-3-ol | 0.0098 mole, 1.12 g | S1CC(CC1)O | C4H8OS
reactant | 4-methylphenylsulfonyl chloride | 0.01 mole, 1.91 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 4-methylphenylsulfonyl chloride | 0.0016 mole, 0.3 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 3-Tetrahydrothienyl 4-methylphenylsulfonate | 1.28 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CSCC1 | C11H14O3S2
